US06013663
N-[5-(1,2-Dithiolan-3-yl)pentyl]acetamide (Compound No. 1-1962)
1 ml of butylamine was added to a mixture of 1.3 mmol of 2-[5-(1,2-dithiolan-3-yl)pentyl]isoindole-1,3-dione, 9 ml of toluene and 2 ml of methanol. The resulting mixture was stirred at room temperature for 3 hours, after which the reaction mixture was allowed to stand at room temperature for 2 days. 1 ml of butylamine was then added to the reaction mixture. The resulting mixture was stirred at room temperature for 3 hours. The solvent was then removed from the reaction mixture by distillation under reduced pressure. Water was added to the residue, after which it was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. Ethyl acetate was removed from the extract by distillation under reduced pressure. 5 ml of anhydrous tetrahydrofuran were then added to the residue. 0.28 ml of triethylamine and 0.14 ml of acetyl chloride were then added to dropwise to the resulting mixture, whilst ice-cooling, and then the mixture was stirred at room temperature for 1 hour and 30 minutes. At the end of this time, the solvent was removed from the reaction mixture by distillation under reduced pressure. Water was added to the residue, after which it was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. Ethyl acetate was removed from the extract by distillation under reduced pressure. The residue was subjected to silica gel column chromotagraphy, using 1:0 and 10:1 by volume mixtures of ethyl acetate and methanol as eluent. The solvent was removed from the eluate by distillation under reduced pressure. The residue was dissolved in dioxane, after which it was lyophilised, to give 161 mg of the title compound as yellow crystals, melting at 28 to 33° C.

reactant | butylamine | 1 ml | C(CCC)N | C4H11N
reactant | 2-[5-(1,2-dithiolan-3-yl)pentyl]isoindole-1,3-dione | 1.3 mmol | S1SC(CC1)CCCCCN1C(C2=CC=CC=C2C1=O)=O | C16H19NO2S2
reactant | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
reactant | butylamine | 1 ml | C(CCC)N | C4H11N
solvent | methanol | 2 ml | CO | CH4O
product | N-[5-(1,2-Dithiolan-3-yl)pentyl]acetamide | 161 mg | S1SC(CC1)CCCCCNC(C)=O | C10H19NOS2
